US04093736
4-[3-Ethyl-6-(4-carbomethoxyphenyl)-3-hexenyl]-3,5-heptanedione
[I; Ar is 4-CH3O2CC6H4, R0 is H, R' and R" are CH3CH2CO, Y is C(C2H5)=CHCH2CH2 ] was prepared from 14 g. of 3-ethyl-6-(4-carbomethoxyphenyl)-3-hexenyl iodide (Preparation D10) and 14 g. of the lithium salt of 3,5-heptanedione in 200 ml. of dimethylformamide according to the procedure described above in Example 2. The product was chromatographed on silica gel and eluted with the pentane-benzene-ether solvent series. Benzene containing 2% ether brought out the desired product, 2.6 g. of 4-[3-ethyl-6-(4-carbomethoxyphenyl)-3-hexenyl]-3,5-heptanedione as a yellow oil.

reactant | 3-ethyl-6-(4-carbomethoxyphenyl)-3-hexenyl iodide | C(C)C(CCI)=CCCC1=CC=C(C=C1)C(=O)OC | C16H21IO2
reactant | lithium | [Li] | Li
reactant | 3,5-heptanedione | CCC(CC(CC)=O)=O | C7H12O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[3-Ethyl-6-(4-carbomethoxyphenyl)-3-hexenyl]-3,5-heptanedione | C(C)C(CCC(C(CC)=O)C(CC)=O)=CCCC1=CC=C(C=C1)C(=O)OC | C23H32O4
